US06562319B2
In one particular, 3-bromoaniline is reacted with 4-chloro-6-nitroquinazoline to produce 4-[(3-bromophenyl)amino]-6-nitro quinazoline, which is reduced thereafter, by means of an ethanolic solution of hydrazine hydrate and Raney®Nickel, to the corresponding 6-aminoquinazoline. The 4-[(3-bromophenyl)amino]-6-aminoquinazoline is then reacted with bistributyltin in the presence of tetrakis(triphenylphosphine)palladium in triethylamine solution and the obtained stanylated product is reacted thereafter with bromine-76, as described hereinabove. The obtained bromine-76 labeled 4-[(3-bromophenyl)amino]-6-aminoquinazoline is then reacted with an acryloyl chloride to produce a bromine-76 labeled {4-[(3-bromophenyl)amino]quinazoline-6-yl}acrylamide.

reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
product | 4-[(3-bromophenyl)amino]-6-nitro quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C14H9BrN4O2
